US04291022
(a) Z-Nle-Asn-Phe-Phe-OMe
4.95 g of Z-Nle-OH dissolved in 50 ml tetrahydrofuran are cooled to -20° C. and 2.1 ml of N-methylmorpholine followed by 2.43 ml of chloroformic acid isobutylester are added to the solution with stirring. The solution is stirred for a further 10 minutes at -15° C. and a cold solution comprising 10.6 g of H-Asn-Phe-Phe-OMe. hydrobromide and 2.5 ml of N-methylmorpholine in 60 ml N,N-dimethylformamide/tetrahydrofuran (1:1) are added. The solution is stirred for 20 hours at 0° C. and for 2 hours at room temperature and subsequently stirred with aqueous ethanol. After filtration, washing with (a) methanol and (b) ether and drying, the title compound is obtained [α]D20 =-31° (c=1.0 in dimethylformamide): decomposition at 235° C.

reactant | Z-Nle-OH | 4.95 g | N([C@@H](CCCC)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | N-methylmorpholine | 2.1 ml | CN1CCOCC1 | C5H11NO
reactant | chloroformic acid isobutylester | 2.43 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | H-Asn-Phe-Phe-OMe | 10.6 g | N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C23H28N4O5
reactant | hydrobromide | Br | BrH
reactant | N-methylmorpholine | 2.5 ml | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide tetrahydrofuran | 60 ml | CN(C=O)C.O1CCCC1
solvent | ethanol | C(C)O | C2H6O
product | Z-Nle-Asn-Phe-Phe-OMe | N([C@@H](CCCC)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C37H45N5O8
